US08247403B2
(1) tert-butyl 9-(2-fluorophenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (200 mg, 0.605 mmol), a solution of 2-fluorophenylboronic acid (128 mg, 0.912 mmol) in ethanol (0.7 ml), 2N aqueous sodium carbonate solution (2.5 ml), and tetrakis(triphenylphosphine)palladium(0) (84.0 mg, 0.0730 mmol) in toluene (5 ml) was stirred under a nitrogen atmosphere at 95° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (150 mg, 72.1%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.605 mmol, 200 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | 2-fluorophenylboronic acid | 0.912 mmol, 128 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | water | O | H2O
solvent | ethanol | 0.7 ml | C(C)O | C2H6O
solvent | sodium carbonate | 2N, 2.5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0730 mmol, 84.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 9-(2-fluorophenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 150 mg, 72.1% | FC1=C(C=CC=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C20H22FNO3
